US05128340
5-Chloro-4-(pyridin-3-yl)-thiazol-2-amine (20 g) was dissolved in formic acid (40 ml) and formamide (20 ml) and the mixture was heated at 90° C. for six hours. After cooling, the mixture was diluted with water (240 ml) and basified with aqueous ammonia solution. The resulting solid was isolated by filtration, and dried in vacuo at 60° C. to give N-[5-chloro-4-(pyridin-3-yl)-thiazol-2-yl]-formamide, (22,8 g) Mp 229° C.

reactant | 5-Chloro-4-(pyridin-3-yl)-thiazol-2-amine | 20 g | ClC1=C(N=C(S1)N)C=1C=NC=CC1 | C8H6ClN3S
reactant | formamide | 20 ml | C(=O)N | CH3NO
reactant | ammonia | N | H3N
solvent | formic acid | 40 ml | C(=O)O | CH2O2
solvent | water | 240 ml | O | H2O
product | N-[5-chloro-4-(pyridin-3-yl)-thiazol-2-yl]-formamide | 22,8 g | ClC1=C(N=C(S1)NC=O)C=1C=NC=CC1 | C9H6ClN3OS
